US06900345B2
6-Hydroxymethyl-1H-pyridin-2-one
1H-Pyridin-2-one-6-carboxylic acid (2.51 g, 18 mmol) was suspended in dry THF (30 ml) and 1,2-dimethoxyethane (10 ml) under argon. Lithium aluminium hydride (1.0 M in diethyl ether) (30 ml, 30 mmol) was added and the mixture heated to reflux. After 67 h heating was stopped, the mixture cooled to 0° C. and acetic acid (7 ml) added. The solvent was removed in vacuo and the residue purified by flash column chromatography on silica gel, eluting with 20-30% methanol in dichloromethane, to give the title compound as tan needles (0.714 g, 32%); δH (400 MHz; CD3OD) 4.47 (2H, s), 6.38 (1H, d, J 6.8), 6.41 (1H, d, J 9.2), 7.56 (1H, dd, J 6.8, 9.2); m/z J 6.8, 9.2); m/z (ES+) 126 (100%, [MH]+).

reactant | 1H-Pyridin-2-one-6-carboxylic acid | 18 mmol, 2.51 g | N1C(C=CC=C1C(=O)O)=O | C6H5NO3
reactant | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
reactant | Lithium aluminium hydride | 30 mmol, 1.0 M, 30 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 6-Hydroxymethyl-1H-pyridin-2-one | 0.714 g, 32% | OCC1=CC=CC(N1)=O | C6H7NO2
